US07888349B2
Triethylamine (4.0 mL, 28.8 mmol) was added to a suspension of 3-[2-(chloromethyl)-1H-imidazo[4,5-c]-1,5-naphthyridin-1-yl]propylamine hydrochloride (3.0 g, 9.61 mmol) in dichloromethane (100 mL). Methanesulfonic anhydride (2.01 g, 11.53 mmol) was added to the reaction mixture and stirred for 1 hour at ambient temperature. The mixture was diluted with dichloromethane (50 mL) and saturated aqueous sodium bicarbonate and the layers were separated. The aqueous layer was extracted with dichlormethane (35 mL) and the combined organic layers were dried over magnesium sulfate, filtered, and concentrated to afford 3.09 g of N-{3-[2-(chloromethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]propyl}methanesulfonamide as a tan solid.

reactant | Triethylamine | 28.8 mmol, 4.0 mL | C(C)N(CC)CC | C6H15N
reactant | 3-[2-(chloromethyl)-1H-imidazo[4,5-c]-1,5-naphthyridin-1-yl]propylamine hydrochloride | 9.61 mmol, 3.0 g | Cl.ClCC=1N(C2=C(C=NC=3C=CC=NC23)N1)CCCN
reactant | Methanesulfonic anhydride | 11.53 mmol, 2.01 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | N-{3-[2-(chloromethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]propyl}methanesulfonamide | 3.09 g | ClCC=1N(C2=C(C=NC=3C=CC=NC23)N1)CCCNS(=O)(=O)C | C14H16ClN5O2S
